US05994390
3-(4-Fluorophenyl)-4-(4-hydroxyphenyl)-7-methoxy-chrom-3-ene
Lithium aluminium hydride (0.76 g, 20.03 mmol) was added in small portions to a stirred tetrahydrofuran (150 ml) solution of 4-(4-acetoxyphenyl)-3-(4-fluorophenyl)-7-methoxy-coumarin (4.04 g, 9.99 mmol). After complete addition, the mixture was stirred at room temperature for 30 min., then treated dropwise with 6M hydrochloric acid (30 ml). The resulting mixture was heated to 60-65° C. for 3 h, cooled and diluted with water (100 ml) and ethyl acetate (50 ml). The aqueous layer was separated and further extracted with ethyl acetate (3×100 ml). The combined organic solutions were washed with saturated aqueous sodium chloride, dried over sodium sulfate and evaporated to give an orange solid. This was recrystallised from ethanol/water (4:1, 75 ml) to give the first crop of solid product as colourless needles. The mother liquors were evaporated to give an orange gum, which was subjected to a second aqueous ethanol recrystallisation to give a second crop of colourless needles. The solids were combined and vacuum dried.

reactant | Lithium aluminium hydride | 20.03 mmol, 0.76 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | 4-(4-acetoxyphenyl)-3-(4-fluorophenyl)-7-methoxy-coumarin | 9.99 mmol, 4.04 g | C(C)(=O)OC1=CC=C(C=C1)C1=C(C(OC2=CC(=CC=C12)OC)=O)C1=CC=C(C=C1)F | C24H17FO5
reactant | hydrochloric acid | 6M, 30 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-(4-Fluorophenyl)-4-(4-hydroxyphenyl)-7-methoxy-chrom-3-ene | FC1=CC=C(C=C1)C=1COC2=CC(=CC=C2C1C1=CC=C(C=C1)O)OC | C22H17FO3
